US06455587B1
Preparation of Nα,Nε-di-(4-Methylbenzenesulfonyl)-L-lysine (Compound No. 151)
To a stirred solution of L-lysine dihydrochloride (1 mmol) in a mixture of THF and 1M K2CO3 (3 mL/3 mL) was added 4-methylbenzenesulfonyl chloride (381 mg, 2.00 mmol). The reaction mixture was stirred for 2 h and then quenched with 1N HCl and extracted twice with EtOAc. The combined organic extracts were dried over MgSO4 and concentrated. The crude was purified by flash chromatography using hexane/EtOAc/AcOH (30:69.4/0.6) to give 75% of the desired product.

reactant | L-lysine dihydrochloride | 1 mmol | Cl.Cl.N[C@@H](CCCCN)C(=O)O
reactant | 4-methylbenzenesulfonyl chloride | 2.00 mmol, 381 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | K2CO3 | 1M, 3 mL | C(=O)([O-])[O-].[K+].[K+]
product | Nα,Nε-di-(4-Methylbenzenesulfonyl)-L-lysine | 75% | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C20H26N2O6S2
